US07638517B2
5-[(4-Chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-phenyl-methyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione was prepared following the procedure described for preparation of 2,2-dimethyl-5-[phenyl-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methyl]-[1,3]dioxane-4,6-dione in example 1, using 1-(tert-butyl-dimethyl-silanyl)-4-chloro-1H-pyrrolo[2,3-b]pyridine.

reactant | 2,2-dimethyl-5-[phenyl-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methyl]-[1,3]dioxane-4,6-dione | CC1(OC(C(C(O1)=O)C(C1=CNC2=NC=CC=C21)C2=CC=CC=C2)=O)C | C20H18N2O4
reactant | 1-(tert-butyl-dimethyl-silanyl)-4-chloro-1H-pyrrolo[2,3-b]pyridine | C(C)(C)(C)[Si](N1C=CC=2C1=NC=CC2Cl)(C)C | C13H19ClN2Si
product | 5-[(4-Chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-phenyl-methyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione | ClC1=C2C(=NC=C1)NC=C2C(C2C(OC(OC2=O)(C)C)=O)C2=CC=CC=C2 | C20H17ClN2O4
